US05424446
(-)-1-(2,3,4-Trichlorophenyl)ethanesulfonic acid (3.18 g) is dissolved in water (17.4 ml), and thereto is added aqueous solution of racemic 4-amino-3-mercaptobutyric acid hydrochloride (3.77 g)in water (24.6 ml). The mixture is dissolved at 70° C.-80° C., and allowed to cool. After cooling, the mixture is stirred under ice-cooling for one hour, and the precipitated crystals are collected by filtration, washed, and dried to give (3R)-4-amino--3-mercaptobutyric acid (-)-1-(2,3,4-trichlorophenyl)ethanesulfonate (3.8 g).

reactant | (-)-1-(2,3,4-Trichlorophenyl)ethanesulfonic acid | 3.18 g | ClC1=C(C=CC(=C1Cl)Cl)C(C)S(=O)(=O)O | C8H7Cl3O3S
reactant | racemic 4-amino-3-mercaptobutyric acid hydrochloride | 3.77 g | Cl.NCC(CC(=O)O)S
solvent | water | 17.4 ml | O | H2O
solvent | water | 24.6 ml | O | H2O
product | (3R)-4-amino--3-mercaptobutyric acid (-)-1-(2,3,4-trichlorophenyl)ethanesulfonate | 3.8 g, Yield: 40.4% | ClC1=C(C=CC(=C1Cl)Cl)C(C)S(=O)(=O)O.NC[C@@H](CC(=O)O)S | InChI=1S/C8H7Cl3O3S.C4H9NO2S/c1-4(15(12,13)14)5-2-3-6(9)8(11)7(5)10;5-2-3(8)1-4(6)7/h2-4H,1H3,(H,12,13,14);3,8H,1-2,5H2,(H,6,7)/t;3-/m.1/s1
